US04431808
A solution of 125.6 g of 5-chloro-2-iodobenzyl bromide in 500 ml of dimethylformamide is added to a mixture of 640 ml of dimethylformamide, 52.4 g of potassium carbonate and 47.8 g of 2-hydroxythiophenol (R. Leuckart, J.Prakt.Chem. /2/ 41, 192, 1890). Then, the mixture is stirred for 1 hour at room temperature, treated with 57 g. of potassium carbonate and 4.5 g of copper and is refluxed for 6 hours. Dimethylformamide is distilled off under reduced pressure, the residue diluted with water and shaken with benzene. After filtration, the benzene layer is separated, washed with water, dried with potassium carbonate and evaporated. By distillation of the residue there are obtained 42.5 g (45%) of 2-chloro-11H-dibenz(b.f)-1,4-oxathiepin with a b.p. of 148°-168° C./85 Pa and m.p. of 66.76° C. The pure product is obtained by crystallization from methanol and melts at 78°-79° C.

reactant | 5-chloro-2-iodobenzyl bromide | 125.6 g | ClC=1C=CC(=C(CBr)C1)I | C7H5BrClI
reactant | potassium carbonate | 52.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-hydroxythiophenol | 47.8 g | OC1=C(C=CC=C1)S | C6H6OS
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
catalyst | copper | 4.5 g | [Cu] | Cu
solvent | dimethylformamide | 640 ml | CN(C=O)C | C3H7NO
product | 2-chloro-11H-dibenz(b.f)-1,4-oxathiepin | 42.5 g, 45% | ClC=1C=CC2=C(CSC3=C(O2)C=CC=C3)C1 | C13H9ClOS
